US04705555
S-2-Bromophenyl ethanethioate
A stirred solution of 2-bromothiophenol (100 g, 0.529 mol), acetic anhydride (62.4 mL, 0.661 mol), and 4-dimethylaminopyridine (3.2 g, 0.026 mol) in dichloromethane (1000 mL) was cooled in an ice-bath. Triethylamine (92.2 mL, 0.662 mol) was slowly added, and then the ice bath was removed. The mixture was stirred at room temperature for 1 hour. Water (10 mL) was added, and after a couple of minutes the mixture was washed with aqueous 1N hydrochloric acid (3×300 mL), 10% sodium hydroxide solution (3×300 mL), and 1N hydrochloric acid (300 mL), and then dried (Na2SO4), and filtered. Evaporation of the solvent left S-2-bromophenyl ethanethioate as a pale yellow oil (104 g).

reactant | 2-bromothiophenol | 0.529 mol, 100 g | BrC1=C(C=CC=C1)S | C6H5BrS
reactant | acetic anhydride | 0.661 mol, 62.4 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | Triethylamine | 0.662 mol, 92.2 mL | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 0.026 mol, 3.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 1000 mL | ClCCl | CH2Cl2
product | S-2-Bromophenyl ethanethioate | C(C)(SC1=C(C=CC=C1)Br)=O | C8H7BrOS
